US04851412
(a) 2-[2-Hydroxyethylamino]-3-aminopyridine
2-(2-Hydroxyethylamino)-3-nitropyridine (8.9 g) was dissolved in ethanol (200 ml) and hydrogenated over 5% palladium on charcoal (400 mg) at 50 p.s.i. (3.45 bar) for 21/2 hours. The reaction mixture was filtered and the ethanol removed under reduced pressure, yielding the title compound (4.2 g, 56%) as a dark oil which was used without purification in 1(b) below.

reactant | 2-(2-Hydroxyethylamino)-3-nitropyridine | 8.9 g | OCCNC1=NC=CC=C1[N+](=O)[O-] | C7H9N3O3
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 400 mg | [Pd] | Pd
product | 2-[2-Hydroxyethylamino]-3-aminopyridine | 4.2 g, 56% | OCCNC1=NC=CC=C1N | C7H11N3O
